US07951805B2
SYNTHESIS OF 6-[4-(2-TRIFLUOROMETHYLPHENYLAMINO)PIPERIDIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE HYDROCHLORIDE
6-[4-(2-Trifluoromethylphenylamino)piperidin-1-yl]pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide was dissolved in dichloromethane (3 mL). Hydrochloric acid in ether (2 M, 0.18 mL, 0.36 mmol) was added to the solution. The mixture was kept at ambient temperature for 2 hours. The white precipitate obtained was collected by filtration and washed with ether and dried in vacuo to afford the title compound as a white solid (0.193 g). m.p. 158-163° C. 1H NMR (300 MHz, DMSO-d6) δ 6.7 2 (d, J=9.9 Hz, 1H), 6.53 (d, J=9.9 Hz, 1H), 5.86-5.82 (m, 2H), 5.43 (d, J=8.7 Hz, 1H), 5.18 (t, J=7.5 Hz, 1H), 2.73 (d, J=13.8 Hz, 2H), 2.42-2.35 (m, 1H), 2.07-1.89 (m, 4H), 0.74-0.70 (m, 2H), 0.21-0.17 (m, 2H), 0.01-−0.03 (m, 2H), −0.05-−0.10 (m, 2H), −0.77-−0.80 (m, 1H), −1.05-−1.18 (m, 2H), −1.42-−1.54 (m, 2H). 13C NMR (75 MHz, DMSO-d6) δ 162.1, 153.9, 145.6, 145.1, 134.5, 132.5, 127.7, 124.5, 117.6, 114.3, 49.5, 41.0, 35.4, 32.0, 9.4, 4.6. MS (ES+) m/z 434.3 (M+1-HCl).

reactant | 6-[4-(2-Trifluoromethylphenylamino)piperidin-1-yl]pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)NC1=C(C=CC=C1)C(F)(F)F | C22H26F3N5O
reactant | Hydrochloric acid | Cl | ClH
reactant | ether | 0.36 mmol, 2 M, 0.18 mL | CCOCC | C4H10O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 6-[4-(2-TRIFLUOROMETHYLPHENYLAMINO)PIPERIDIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE HYDROCHLORIDE | 0.193 g | Cl.C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)NC1=C(C=CC=C1)C(F)(F)F | InChI=1S/C22H26F3N5O.ClH/c23-22(24,25)17-3-1-2-4-18(17)27-16-10-13-30(14-11-16)20-8-7-19(28-29-20)21(31)26-12-9-15-5-6-15;/h1-4,7-8,15-16,27H,5-6,9-14H2,(H,26,31);1H
